US04638068
A mixture of 10.04 g dimethyl aminofumarate and 8.0 g 2-formylcyclohexanone is heated at 150° C. under a reflux condenser for one hour. The condenser is removed, and the volatile components allowed to escape. Material volatile at 0.5 mm and 150° C. is then removed. The residue is purified by flash chromatography on silica gel using hexane-ethyl acetate (4:1) as eluant. Fractions containing the product are combined to give 2.97 g dimethyl 5,6,7,8-tetrahydroquinoline-2,3-dicarboxylate as an amber oil having the appropriate NMR and IR spectra.

reactant | dimethyl aminofumarate | 10.04 g | N/C(/C(=O)OC)=C\C(=O)OC | C6H9NO4
reactant | 2-formylcyclohexanone | 8.0 g | C(=O)C1C(CCCC1)=O | C7H10O2
product | dimethyl 5,6,7,8-tetrahydroquinoline-2,3-dicarboxylate | 2.97 g | N1=C(C(=CC=2CCCCC12)C(=O)OC)C(=O)OC | C13H15NO4
